US09278944B2
1-(2,6-Dichloropyridin-4-yl)ethanone and cyclopropylamine were treated in the similar manner to Reference Example 6(6) to give N-[1-(2,6-dichloropyridin-4-yl)ethyl]-cyclopropylamine [Ex(297-1)] as a pale yellow oil.

reactant | 1-(2,6-Dichloropyridin-4-yl)ethanone | ClC1=NC(=CC(=C1)C(C)=O)Cl | C7H5Cl2NO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-[1-(2,6-dichloropyridin-4-yl)ethyl]-cyclopropylamine | ClC1=NC(=CC(=C1)C(C)NC1CC1)Cl | C10H12Cl2N2
